US05519015
Allyl 2-amino-4-thiophenecarboxylate
Allyl 2-nitro-4-thiophenecarboxylate was suspended in concentrated HCl (25 ml), at 0°. SnCl2.2H2O (7.44 g, 32.36 mmol) was added and after stirring for 4 hours at ambient temperature the pH was adjusted to 10 with NaOH. Extraction with ethyl acetate and purification by subjecting to flash silica gel chromatography using ethyl acetate/petroleum ether as eluant (25:75), gave the title compound (1.15 g, 55%).

reactant | Allyl 2-nitro-4-thiophenecarboxylate | [N+](=O)([O-])C=1SC=C(C1)C(=O)OCC=C | C8H7NO4S
reactant | SnCl2.2H2O | 32.36 mmol, 7.44 g | O.O.Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 25 ml | Cl | ClH
product | Allyl 2-amino-4-thiophenecarboxylate | 1.15 g, 55% | NC=1SC=C(C1)C(=O)OCC=C | C8H9NO2S
